US07354920B2
a) 4-Benzyl-2-(2-phenyl-oxiranyl)-morpholine
To a mixture of trimethylsulfoxonium iodide (783 mg, 1 equiv.) and sodium hydride (142 mg, 1 equiv.) in dimethylformamide (17 mL) at 0° C. under nitrogen atmosphere was added dimethylsulfoxide (251 μL, 1 equiv.) and the resulting suspension was stirred for 30 minutes. A solution of (4-Benzyl-morpholin-2-yl)-phenyl-methanone (1 g, 1 equiv.) in dimethylformamide (10 mL) was then added dropwise. Stirring was continued for 30 minutes and the reaction was stopped by addition of water (50 mL). The aqueous solution was extracted with diethyl ether, the organic phase dried with MgSO4, and evaporated in vacuo. The crude material was purified using a column chromatography on silica gel eluting with a mixture of ethyl acetate/heptane (20/80) to give 825 mg of the title compound as a colourless oil (78%), mixture of two diastereoisomers. LCMS (6 minute method) [M+H]+=296 @ Rt 1.88 min. single peak.

reactant | trimethylsulfoxonium iodide | 783 mg, 1 equiv. | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 142 mg, 1 equiv. | [H-].[Na+]
reactant | dimethylsulfoxide | 251 μL, 1 equiv. | CS(=O)C | C2H6OS
reactant | (4-Benzyl-morpholin-2-yl)-phenyl-methanone | 1 g, 1 equiv. | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)C1=CC=CC=C1 | C18H19NO2
solvent | dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 4-Benzyl-2-(2-phenyl-oxiranyl)-morpholine | 825 mg, 78% | C(C1=CC=CC=C1)N1CC(OCC1)C1(OC1)C1=CC=CC=C1 | C19H21NO2
